US06831164B2
2,3,4,6-Tetra-O-acetyl-1-O-(4-carboxybutyl)-glucopyranose
A mixture that consists of 34.83 g (100 mmol) of 2,3,4,6-tetra-O-acetyl-glucopyranose, 1.39 g (5 mmol) of tetrabutylammonium chloride and 15.22 g (100 mmol) of DBU in 300 ml of tetrahydrofuran is cooled to 0° C. At 0° C., 54.37 g (150 mmol) of 5-tosyloxy-pentanecarboxylic acid benzyl ester, dissolved in 40 ml of tetrahydrofuran, is added in drops over 30 minutes while being stirred vigorously. It is stirred for three hours at 0° C. 300 ml of MTB (methyl-tert-butyl ether) is added, solid is filtered out, and the filtrate is evaporated to the dry state in a vacuum. The residue is taken up in 500 ml of tetrahydrofuran. 5 g of palladium (10%) on activated carbon is added thereto and hydrogenated until hydrogen absorption is completed. Then, catalyst is filtered out, it is rewashed with a little tetrahydrofuran and evaporated to the dry state in a vacuum. The residue is chromatographed on silica gel (mobile solvent: dichloromethane/n=hexane/ethanol/acetic acid=20:5:3:0.5). The product-containing fractions are concentrated by evaporation, dissolved in 400 ml of ethyl acetate, and shaken out three times with 200 ml of water. Then, the organic phase is separated and evaporated to the dry state in a vacuum.

reactant | 2,3,4,6-tetra-O-acetyl-glucopyranose | 100 mmol, 34.83 g | C(C)(=O)O[C@H]1C(O)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C14H20O10
reactant | DBU | 100 mmol, 15.22 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 5-tosyloxy-pentanecarboxylic acid benzyl ester | 150 mmol, 54.37 g | C(C1=CC=CC=C1)OC(=O)CCCCCOS(=O)(=O)C1=CC=C(C)C=C1 | C20H24O5S
reactant | MTB | 300 ml | COC(C)(C)C | C5H12O
catalyst | tetrabutylammonium chloride | 5 mmol, 1.39 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2,3,4,6-Tetra-O-acetyl-1-O-(4-carboxybutyl)-glucopyranose | C(C)(=O)O[C@H]1C(OCCCCC(=O)O)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C19H28O12
